US04700007
Thirty grams each of 2-hydroxycyclopentadecanone, 2-hydroxycyclotridecanone, 2-acetoxycyclopentadecanone, 2-acetoxycyclotridecanone, and 2-hydroxycyclohexadecanone obtained through acyloin condensation was dissolved in 200 ml of an organic solvent shown in Table 1. The resulting solution was placed in a reaction apparatus equipped with a reflux condener having a water trap, a stirrer, and a dropping funnel, and 40 g of a zinc powder was dispersed therein. The mixture was allowed to react under reflux by adding 150 ml of 12N hydrochloric acid dropwise over a period of 1.5 hours. During the reaction, the aqueous layer in the trap was intermittently withdrawn in the case of using toluene, xylene, or cyclohexane as an organic solvent. In the case of using methyl ethyl ketone, the whole amount of the liquid reserved in the trap (about 90 ml) was intermittently withdrawn.

reactant | 2-hydroxycyclotridecanone | OC1C(CCCCCCCCCCC1)=O | C13H24O2
reactant | 2-acetoxycyclopentadecanone | C(C)(=O)OC1C(CCCCCCCCCCCCC1)=O | C17H30O3
reactant | 2-acetoxycyclotridecanone | C(C)(=O)OC1C(CCCCCCCCCCC1)=O | C15H26O3
reactant | 2-hydroxycyclohexadecanone | OC1C(CCCCCCCCCCCCCC1)=O | C16H30O2
product | 2-hydroxycyclopentadecanone | Thirty grams | OC1C(CCCCCCCCCCCCC1)=O | C15H28O2
